US08110579B2
Add, under argon, 0.74 mL (0.41 mmol) of diisopropylethylamine and 409 mg (1.28 mmol) of TBTU to a solution of 200 mg (0.42 mmol) of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid in 50 mL of anhydrous DMF. In parallel, heat, while stirring under argon, a mixture of 84 mg (0.59 mmol) of 2-aminocyclohexane-2-carboxylic acid and 0.18 mL (0.76 mmol) of N,O-bis(trimethylsilyl)acetamide (BSA) in 5 mL of anhydrous acetonitrile to 90° C. After 2 h, the mixture has dissolved completely. Cool the solution to RT, then add it to the solution of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2 carboxylic acid activated with TBTU. After stirring for 18 h at RT, add 10 mL of 0.5N HCl aqueous solution and continue stirring for 3 h. Then distribute the reaction mixture in a mixture of 20 mL of EtOAc/ether 1:1 and 10 mL of water. After extraction, extract the aqueous phase again with 10 mL of 1:1 ether/EtOAc mixture. Combine the organic phases, wash with 2×10 mL of water, dry over Na2SO4 and concentrate under reduced pressure. Then purify the residue by reverse-phase HPLC (RP18) eluting with a 0.01N HCl/acetonitrile gradient from 5% to 100% of acetonitrile. After concentration under reduced pressure and tyophilization, we obtain 106 mg of 1-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)cyclohexanecarboxylic acid hydrochloride in the form of white powder.

reactant | diisopropylethylamine | 0.41 mmol, 0.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 1.28 mmol, 409 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid | 0.42 mmol, 200 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)O)C1=C(C=CC=C1OC)OC)OCCCN(C)C | C25H27ClN2O5
reactant | 2-aminocyclohexane-2-carboxylic acid | 0.59 mmol, 84 mg | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | N,O-bis(trimethylsilyl)acetamide | 0.76 mmol, 0.18 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | HCl | 0.5N, 10 mL | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc ether | 20 mL | CCOC(=O)C.CCOCC
solvent | water | 10 mL | O | H2O
product | 1-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridin-2-yl]carbonyl}amino)cyclohexanecarboxylic acid hydrochloride | 106 mg, Yield=41% | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)NC1(CCCCC1)C(=O)O)C1=C(C=CC=C1OC)OC)OCCCN(C)C | InChI=1S/C32H38ClN3O6.ClH/c1-36(2)18-9-19-42-27-20-21(12-14-23(27)33)29-22(28-25(40-3)10-8-11-26(28)41-4)13-15-24(34-29)30(37)35-32(31(38)39)16-6-5-7-17-32;/h8,10-15,20H,5-7,9,16-19H2,1-4H3,(H,35,37)(H,38,39);1H
